US08530596B2
A 100 ml four-neck flask provided with a thermometer, stirrer, reflux tube, and nitrogen-introducing tube was charged with 2,2′-dimethylbiphenyl 14.7 g (80.55 mmol), 1-bromo-adamantane 34.7 g (161.1 mmol), and nitromethane 200 ml and the mixture stirred under a nitrogen flow at room temperature. Iron (III) chloride 1.31 g (8.07 mmol) was added and the result stirred at room temperature until dissolving. An oil bath was heated to 60° C., then the stirring was continued at that temperature for 4 hours. The reaction solution was filtered and rinsed away with a small amount of methanol. The filtered material was stirred in 30 ml of methanol for 30 minutes, then filtered. The obtained residue was dried at 60° C. under reduced pressure to obtain 2,2′-dimethyl-5,5′-bis(1-adamantyl)biphenyl white powder 17.5 g.

reactant | 2,2′-dimethylbiphenyl | 80.55 mmol, 14.7 g | CC1=C(C=CC=C1)C1=C(C=CC=C1)C | C14H14
reactant | 1-bromo-adamantane | 161.1 mmol, 34.7 g | BrC12CC3CC(CC(C1)C3)C2 | C10H15Br
catalyst | Iron (III) chloride | 8.07 mmol, 1.31 g | [Fe](Cl)(Cl)Cl
solvent | nitromethane | 200 ml | [N+](=O)([O-])C | CH3NO2
product | 2,2′-dimethyl-5,5′-bis(1-adamantyl)biphenyl | 17.5 g | CC1=C(C=C(C=C1)C12CC3CC(CC(C1)C3)C2)C2=C(C=CC(=C2)C23CC1CC(CC(C2)C1)C3)C | C34H42
